US03933793
4-phenyl-1.3-dihydro-2H-1.5-benzodiazepine-2-thione (Formula III wherein R and R1 = H)
A mixture of 1.08 g of o-phenylendiamine, 10 ml of xylene and 1.96 g of benzoyldithioacetic acid (Thuillier et al - Bull. Soc. Chim. Fr. 1938 (1959) is refluxed for 1 hour under a stream of nitrogen. The reaction may also be carried out in water, alcohol or dioxane. After cooling, the precipitate is filtered, washed with ethyl ether, and crystallized from ethyl acetate. Yield 2 g, m.p. 228°-230°C.

reactant | o-phenylendiamine | 1.08 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | benzoyldithioacetic acid | 1.96 g | C(C1=CC=CC=C1)(=O)CC(=S)S | C9H8OS2
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 4-phenyl-1.3-dihydro-2H-1.5-benzodiazepine-2-thione | C1(=CC=CC=C1)C1=NC2=C(NC(C1)=S)C=CC=C2 | C15H12N2S
